US08710046B2
To a solution of 2-amino-3-methylbenzoic acid (10.0 g, 66 mmol) in DMSO was added 48% aqueous hydrogen bromide (18.0 ml). The reaction solution was stirred at room temperature overnight and then quenched with saturated sodium bicarbonate. The resultant mixture was stirred overnight. Precipitation was collected by filtration and dried in vacuo to give 2-amino-5-bromo-3-methylbenzoic acid (13.0 g, 85%) as a pink solid: 1H NMR (500 MHz, DMSO) δ 7.69 (d, J=1.0 Hz, 1H), 7.33 (d, J=1.0 Hz, 1H), 2.10 (s, 3H); MS (ESI+) m/z 231 (M+H).

reactant | 2-amino-3-methylbenzoic acid | 66 mmol, 10.0 g | NC1=C(C(=O)O)C=CC=C1C | C8H9NO2
reactant | hydrogen bromide | 18.0 ml | Br | BrH
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-amino-5-bromo-3-methylbenzoic acid | 13.0 g, 85% | NC1=C(C(=O)O)C=C(C=C1C)Br | C8H8BrNO2
